US08497281B2
Step 1: 2,2,2-trifluoro-1-(cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone
Trifluoroacetic anhydride (4.5 mL) is added dropwise to a solution of cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine (5.0 g), triethylamine (5.6 mL), and 4-dimethylaminopyridine (ca. 5 mol %) in dichloromethane (60 mL) maintained below 10° C. The solution is stirred with cooling for 1 h and at room temperature for 2 h. The solution is diluted with dichloromethane (100 mL) and aqueous NaHCO3 solution and then stirred vigorously for 15 min. The organic phase is separated, washed with 1 M hydrochloric acid (25 mL) and water (50 mL), and dried (MgSO4). The solvent is evaporated to afford the title compound as an oil. Yield: 8.1 g (quantitative); LC (method 1): tR=4.24 min; Mass spectrum (ESI+): m/z=300 [M+H]+.

reactant | Trifluoroacetic anhydride | 4.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | 5.0 g | COC=1C=CC=2C[C@@H]3NCCC[C@@H]3C2C1 | C13H17NO
reactant | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2,2,2-trifluoro-1-(cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OC)(F)F | C15H16F3NO2
